* Fixed charge pump current test
.title CP Debug v4

.param sky130_fd_pr__nfet_01v8__toxe_slope=0
.param sky130_fd_pr__nfet_01v8__vth0_slope=0
.param sky130_fd_pr__nfet_01v8__voff_slope=0
.param sky130_fd_pr__nfet_01v8__toxe_slope1=0
.param sky130_fd_pr__nfet_01v8__vth0_slope1=0
.param sky130_fd_pr__nfet_01v8__voff_slope1=0
.param sky130_fd_pr__pfet_01v8__toxe_slope=0
.param sky130_fd_pr__pfet_01v8__vth0_slope=0
.param sky130_fd_pr__pfet_01v8__voff_slope=0
.param sky130_fd_pr__pfet_01v8__nfactor_slope=0
.param sky130_fd_pr__pfet_01v8__toxe_slope1=0
.param sky130_fd_pr__pfet_01v8__vth0_slope1=0
.param sky130_fd_pr__pfet_01v8__voff_slope1=0
.param sky130_fd_pr__pfet_01v8__nfactor_slope1=0
.param sky130_fd_pr__pfet_01v8__wlod_diff=0
.param sky130_fd_pr__pfet_01v8__kvth0_diff=0
.param sky130_fd_pr__pfet_01v8__lkvth0_diff=0
.param sky130_fd_pr__pfet_01v8__wkvth0_diff=0
.param sky130_fd_pr__pfet_01v8__ku0_diff=0
.param sky130_fd_pr__pfet_01v8__lku0_diff=0
.param sky130_fd_pr__pfet_01v8__wku0_diff=0
.param sky130_fd_pr__pfet_01v8__kvsat_diff=0
.param mc_mm_switch=0
.param mc_pr_switch=0

.include "/home/hvt06/Downloads/open_pdks/sky130/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__nfet_01v8__tt.pm3.spice"
.include "/home/hvt06/Downloads/open_pdks/sky130/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__pfet_01v8__tt.corner.spice"

Vdd vdd 0 1.8

.subckt inv in out vdd_l vss_l
XMp vdd_l in out vdd_l sky130_fd_pr__pfet_01v8 l=0.15u w=1.0u
XMn vss_l in out vss_l sky130_fd_pr__nfet_01v8 l=0.15u w=0.5u
.ends inv

* ---- Test 1: Bare PMOS mirror (Iref sinks from pbias to GND) ----
* Diode PMOS
XMp_diode pbias pbias vdd vdd sky130_fd_pr__pfet_01v8 l=1.0u w=4.0u
* Mirror PMOS
XMp_mir   mout  pbias vdd vdd sky130_fd_pr__pfet_01v8 l=1.0u w=4.0u
* Iref: 10µA sinking from pbias to GND
Iref pbias 0 10u
Cload mout 0 10p
.ic v(mout)=0.9

* ---- Test 2: Full CP with switches ----
.subckt charge_pump up dn vout vdd_l vss_l
Xinv_up up up_b vdd_l vss_l inv

* PMOS mirror: Iref sinks 10µA from pbs to GND
XMp_d pbs pbs vdd_l vdd_l sky130_fd_pr__pfet_01v8 l=1.0u w=4.0u
XMp_m ips pbs vdd_l vdd_l sky130_fd_pr__pfet_01v8 l=1.0u w=4.0u
Irp pbs vss_l 10u
* PMOS switch: up_b=0 connects mirror to vout
XMp_sw vout up_b ips vdd_l sky130_fd_pr__pfet_01v8 l=0.15u w=2.0u

* NMOS mirror: Iref sources 10µA from VDD to nbs
XMn_d nbs nbs vss_l vss_l sky130_fd_pr__nfet_01v8 l=1.0u w=2.0u
XMn_m ins nbs vss_l vss_l sky130_fd_pr__nfet_01v8 l=1.0u w=2.0u
Irn vdd_l nbs 10u
* NMOS switch: dn=1 connects mirror to vout
XMn_sw vout dn ins vss_l sky130_fd_pr__nfet_01v8 l=0.15u w=1.0u
.ends charge_pump

Vup up 0 PULSE(0 1.8 5n 0.1n 0.1n 10n 100n)
Vdn dn 0 0
Xcp up dn vctrl vdd 0 charge_pump
Clf vctrl 0 10p
.ic v(vctrl)=0.9

.control
  * First check mirror alone
  op
  echo "pbias = $&v(pbias) V"
  echo "mirror out = $&v(mout) V"
  echo ""

  * Now transient of full CP
  tran 0.01n 50n uic
  meas tran v1 FIND v(vctrl) AT=4n
  meas tran v2 FIND v(vctrl) AT=15.5n
  let dv = v2 - v1
  echo "Vctrl before UP: $&v1 V"
  echo "Vctrl after 10ns UP: $&v2 V"
  echo "Delta = $&dv V  (expect ~10mV)"
  
  * Also mirror standalone
  meas tran m1 FIND v(mout) AT=1n
  meas tran m2 FIND v(mout) AT=50n
  let dm = m2 - m1
  let im = dm * 10e-12 / 49e-9
  echo "Mirror out dV = $&dm V (50ns)"
  echo "Mirror avg I = $&im A (expect 10uA)"
  quit
.endc
.end
