* =============================================================
* PFD standalone test: ref=100MHz, div=170MHz
* Should produce DN >> UP
* =============================================================
.title PFD Test -- DN should dominate

.param sky130_fd_pr__nfet_01v8__toxe_slope=0
.param sky130_fd_pr__nfet_01v8__vth0_slope=0
.param sky130_fd_pr__nfet_01v8__voff_slope=0
.param sky130_fd_pr__nfet_01v8__toxe_slope1=0
.param sky130_fd_pr__nfet_01v8__vth0_slope1=0
.param sky130_fd_pr__nfet_01v8__voff_slope1=0
.param sky130_fd_pr__pfet_01v8__toxe_slope=0
.param sky130_fd_pr__pfet_01v8__vth0_slope=0
.param sky130_fd_pr__pfet_01v8__voff_slope=0
.param sky130_fd_pr__pfet_01v8__nfactor_slope=0
.param sky130_fd_pr__pfet_01v8__toxe_slope1=0
.param sky130_fd_pr__pfet_01v8__vth0_slope1=0
.param sky130_fd_pr__pfet_01v8__voff_slope1=0
.param sky130_fd_pr__pfet_01v8__nfactor_slope1=0
.param sky130_fd_pr__pfet_01v8__wlod_diff=0
.param sky130_fd_pr__pfet_01v8__kvth0_diff=0
.param sky130_fd_pr__pfet_01v8__lkvth0_diff=0
.param sky130_fd_pr__pfet_01v8__wkvth0_diff=0
.param sky130_fd_pr__pfet_01v8__ku0_diff=0
.param sky130_fd_pr__pfet_01v8__lku0_diff=0
.param sky130_fd_pr__pfet_01v8__wku0_diff=0
.param sky130_fd_pr__pfet_01v8__kvsat_diff=0
.param mc_mm_switch=0
.param mc_pr_switch=0

.include "/home/hvt06/Downloads/open_pdks/sky130/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__nfet_01v8__tt.pm3.spice"
.include "/home/hvt06/Downloads/open_pdks/sky130/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__pfet_01v8__tt.corner.spice"

Vdd vdd 0 1.8

.subckt inv in out vdd_l vss_l
XMp vdd_l in out vdd_l sky130_fd_pr__pfet_01v8 l=0.15u w=1.0u
XMn vss_l in out vss_l sky130_fd_pr__nfet_01v8 l=0.15u w=0.5u
.ends inv

.subckt nand2 a b out vdd_l vss_l
XMp1 vdd_l a   out vdd_l sky130_fd_pr__pfet_01v8 l=0.15u w=1.0u
XMp2 vdd_l b   out vdd_l sky130_fd_pr__pfet_01v8 l=0.15u w=1.0u
XMn1 out   a   mid vss_l sky130_fd_pr__nfet_01v8 l=0.15u w=1.0u
XMn2 mid   b   vss_l vss_l sky130_fd_pr__nfet_01v8 l=0.15u w=1.0u
.ends nand2

.subckt pfd_dff clk rst_n q vdd_l vss_l
Xinv1 clk  d1  vdd_l vss_l inv
Xinv2 d1   d2  vdd_l vss_l inv
Xinv3 d2   d3  vdd_l vss_l inv
Xnand_edge clk d3 nand_out vdd_l vss_l nand2
Xinv_pulse nand_out pulse vdd_l vss_l inv
Xinv_rst rst_n rst vdd_l vss_l inv
XMp_q1 pq1 rst  vdd_l vdd_l sky130_fd_pr__pfet_01v8 l=0.15u w=1.0u
XMp_q2 q   q_n  pq1   vdd_l sky130_fd_pr__pfet_01v8 l=0.15u w=1.0u
XMn_q1 q   rst  vss_l vss_l sky130_fd_pr__nfet_01v8 l=0.15u w=0.5u
XMn_q2 q   q_n  vss_l vss_l sky130_fd_pr__nfet_01v8 l=0.15u w=0.5u
XMp_qn1 pqn1 pulse vdd_l vdd_l sky130_fd_pr__pfet_01v8 l=0.15u w=1.0u
XMp_qn2 q_n  q     pqn1  vdd_l sky130_fd_pr__pfet_01v8 l=0.15u w=1.0u
XMn_qn1 q_n  pulse vss_l vss_l sky130_fd_pr__nfet_01v8 l=0.15u w=0.5u
XMn_qn2 q_n  q     vss_l vss_l sky130_fd_pr__nfet_01v8 l=0.15u w=0.5u
.ends pfd_dff

.subckt pfd ref_clk div_clk up dn vdd_l vss_l
Xdff_up ref_clk rst_n up vdd_l vss_l pfd_dff
Xdff_dn div_clk rst_n dn vdd_l vss_l pfd_dff
Xnand_rst up dn and_n vdd_l vss_l nand2
Xinv_and and_n and_out vdd_l vss_l inv
Xinv_d1 and_out d1  vdd_l vss_l inv
Xinv_d2 d1      d2  vdd_l vss_l inv
Xinv_d3 d2      d3  vdd_l vss_l inv
Xinv_d4 d3      d4  vdd_l vss_l inv
Xinv_rst d4 rst_n vdd_l vss_l inv
.ends pfd

* ref = 100 MHz, div = 170 MHz (div > ref)
Vref ref_clk 0 PULSE(0 1.8 0 0.1n 0.1n 4.9n 10n)
Vdiv div_clk 0 PULSE(0 1.8 0 0.1n 0.1n 2.84n 5.882n)

Xpfd ref_clk div_clk up dn vdd 0 pfd

* Load outputs
Rup up 0 100k
Rdn dn 0 100k

.control
  set filetype=ascii
  set wr_vecnames
  tran 0.01n 500n uic
  
  * Measure duty cycles
  let up_int = integ(v(up)) / 500n
  let dn_int = integ(v(dn)) / 500n
  echo "UP average = $&up_int V"
  echo "DN average = $&dn_int V"
  echo "Expected: DN >> UP (since div=170MHz > ref=100MHz)"
  
  wrdata results/pfd_test_170.tsv v(ref_clk) v(div_clk) v(up) v(dn)
  quit
.endc

.end
